US04625038
A mixture of 5-hydroxymethyl-2-pyrrolidone (0.4 g), acetone (5 ml) and p-toluenesulfonic acid (ca. 10 mg) was refluxed in 20 ml of benzene for 20 hours with a Dean-Stark water separator. After working up the reaction mixture, distillation (boiling point 70°-75° C. at 0.5 mm of Hg) yielded 0.2 g of (R)-tetrahydro-3,3-dimethyl-3H,5H-pyrrolo[1,2-c]oxazol-5-one as an oil.

reactant | 5-hydroxymethyl-2-pyrrolidone | 0.4 g | OCC1CCC(N1)=O | C5H9NO2
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | p-toluenesulfonic acid | ca. 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | (R)-tetrahydro-3,3-dimethyl-3H,5H-pyrrolo[1,2-c]oxazol-5-one | 0.2 g | CC1(OC[C@@H]2N1C(CC2)=O)C | C8H13NO2
